US05380925
(4R,5S)-4-Methyl-5-phenyl-2-oxazolidinone
A round bottom flask, equipped with a distillation apparatus, is charged with (1S,2R) -norephedrine (18.16 g, 99.1 mmol), diethyl carbonate (27.6 mL, 228 mmol), and potassium carbonate (28.9 g, 209 mmol), and heated at 160° C. (oil bath temperature). The distillation head temperature remained at ca 80° C. when ethanol is collected in the collection flask, which is cooled in an ice bath. When the head temperature drops to 60° C. (ca 5 hours), the oil bath is removed and the mixture is cooled to room temperature. The mixture is diluted in dichloromethane and washed with water (2X) and dried (magnesium sulfate). Concentration in vacuo affords an off-white solid (17.88 g), which is recrystallized in hexane-ethyl acetate 1:1.5, to afford the title compound as white crystals, 15.2 g; mp 120°-121° C., [α]D =171.4° (2.042% in chloroform).

reactant | norephedrine | 99.1 mmol, 18.16 g | C[C@H]([C@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | diethyl carbonate | 228 mmol, 27.6 mL | C(OCC)(OCC)=O | C5H10O3
reactant | potassium carbonate | 209 mmol, 28.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (4R,5S)-4-Methyl-5-phenyl-2-oxazolidinone | 17.88 g | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
